US09085575B2
600 mg (10%) palladium on carbon is added under inert atmosphere to 5.88 g (25.77 mmol) of tert-butyl 5-nitro-1H-pyrazol-3-ylcarbamate diluted in 145 ml of methanol and then the reaction mixture is stirred under hydrogen atmosphere for 24 hours. The solution is filtered on Celite and then rinsed with ethyl acetate. The filtrate is concentrated to yield 4.93 g (96%) of tert-butyl 5-amino-1H-pyrazol-3-ylcarbamate in the form of a gray solid.

reactant | tert-butyl 5-nitro-1H-pyrazol-3-ylcarbamate | 25.77 mmol, 5.88 g | [N+](=O)([O-])C1=CC(=NN1)NC(OC(C)(C)C)=O | C8H12N4O4
catalyst | palladium on carbon | 600 mg | [Pd] | Pd
solvent | methanol | 145 ml | CO | CH4O
product | tert-butyl 5-amino-1H-pyrazol-3-ylcarbamate | 4.93 g, 96% | NC1=CC(=NN1)NC(OC(C)(C)C)=O | C8H14N4O2
